* Testbench for 4 bit decoder with 16 outputs

.lib /Users/rahul/acads/research/sky130/pdk/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice tt
.include ../../build/spice/decoder_16.spice

.param cload='1p'
.param vdd='1.8'
.param tr='10p'
.param tf='10p'

Xdecoder vpwr 0 addr_3 addr_2 addr_1 addr_0 addr_b_3 addr_b_2 addr_b_1 addr_b_0 decode_15 decode_14 decode_13 decode_12 decode_11 decode_10 decode_9 decode_8 decode_7 decode_6 decode_5 decode_4 decode_3 decode_2 decode_1 decode_0 decoder_16

C1 decode_0 0 {cload}
C2 decode_1 0 {cload}
C3 decode_2 0 {cload}
C4 decode_3 0 {cload}
C5 decode_4 0 {cload}
C6 decode_5 0 {cload}
C7 decode_6 0 {cload}
C8 decode_7 0 {cload}
C9 decode_8 0 {cload}
C10 decode_9 0 {cload}
C11 decode_10 0 {cload}
C12 decode_11 0 {cload}
C13 decode_12 0 {cload}
C14 decode_13 0 {cload}
C15 decode_14 0 {cload}
C16 decode_15 0 {cload}

Va3 addr_3 0 dc 0 PULSE(0 {vdd} 0.8u {tr} {tf} 0.8u 1.6u 0)
Vab3 addr_b_3 0 dc {vdd} PULSE({vdd} 0 0.8u {tr} {tf} 0.8u 1.6u 0)

Va2 addr_2 0 dc 0 PULSE(0 {vdd} 0.4u {tr} tf 0.4u 0.8u 0)
Vab2 addr_b_2 0 dc {vdd} PULSE({vdd} 0 0.4u {tr} {tf} 0.4u 0.8u 0)

Va1 addr_1 0 dc 0 PULSE(0 {vdd} 0.2u {tr} tf 0.2u 0.4u 0)
Vab1 addr_b_1 0 dc {vdd} PULSE({vdd} 0 0.2u {tr} {tf} 0.2u 0.4u 0)

Va0 addr_0 0 dc 0 PULSE(0 {vdd} 0.1u {tr} tf 0.1u 0.2u 0)
Vab0 addr_b_0 0 dc {vdd} PULSE({vdd} 0 0.1u {tr} {tf} 0.1u 0.2u 0)

Vdd vpwr 0 {vdd}

.control
tran 1n 1.8u 0u
wrdata decoder_16.dat
+ v(decode_0)
+ v(decode_1)
+ v(decode_2)
+ v(decode_3)
+ v(decode_4)
+ v(decode_5)
+ v(decode_6)
+ v(decode_7)
+ v(decode_8)
+ v(decode_9)
+ v(decode_10)
+ v(decode_11)
+ v(decode_12)
+ v(decode_13)
+ v(decode_14)
+ v(decode_15)
+ v(addr_0)
+ v(addr_1)
+ v(addr_2)
+ v(addr_3)
+ v(addr_b_0)
+ v(addr_b_1)
+ v(addr_b_2)
+ v(addr_b_3)
unset askquit
quit 0
.endc

.end

